* ============================================================
* EGR actuator H-bridge -- ECU pins 59 (EGR HIGH) / 81 (EGR LOW),
* position feedback on pin 37
* ============================================================
* Spec sec.4 outputs table: "H-bridge + position feedback on pin 37",
* never built (docs/status.md sec.2). refs/ecu-pinout-extracted.md:
* pin 59 is magenta (PWM-output class), pin 81 is black (low-side
* class); "High/Low pair => bridge drive". Spec sec.5's S32K148
* FlexTimer budget lists "2 EGR bridge PWM" channels explicitly --
* BOTH pins carry PWM, not one PWM plus one static direction bit.
*
* THIS IS THE ONE POSITIONAL ACTUATOR ON THE BOARD. Every other
* output in the table (50/69 relay, 88 metering) is a low-side
* switch: one direction, on or off, and "off" is unambiguously
* the safe state. An EGR valve is held at a COMMANDED POSITION by
* driving a DC gearmotor both ways against its own return spring,
* which is why this is a bridge and not a FET.
*
* TOPOLOGY. Two logic/PWM lines into an external H-bridge -- an
* integrated automotive smart H-bridge (DRV887x/TLE9201-class) or
* discrete FETs behind a half-bridge gate driver, matching the
* class of part memo 12 chose for the injector/metering stages
* but NOT itself decided for EGR (open item, stated here rather
* than assumed). Either way the four power switch positions this
* netlist models are the same: two high-side (bat -> motor
* terminal), two low-side (motor terminal -> gnd), one pair per
* leg. IN1 (pin 59) commands the diagonal S1+S4 (forward); IN2
* (pin 81) commands the diagonal S3+S2 (reverse) -- the standard
* two-input "sign" scheme (DRV887x-class truth table: IN1=IN2=0
* is COAST -- all four off -- used here as the INFERRED reference
* class, no part chosen).
*
* WHY COAST, NOT BRAKE, IS THE SAFE STATE ASSUMED HERE. An EGR
* actuator of this class is built with a return spring that closes
* the valve when undriven (INFERRED -- no actuator part chosen,
* but this is standard practice for automotive EGR valve motors).
* Coast lets that spring act; brake (both low-sides on, shorting
* the motor) would electrically fight it and hold the valve at
* whatever position the MCU last commanded. This design accepts
* IN1=IN2=LOW as the fail-safe target for exactly that reason -- it
* is a choice this file states rather than a property SPICE proves.
*
* GATE KILL-CLAMP (spec sec.4's binding requirement, REQUIRED
* 18 Sep 2026: "every driver gate is held off by hardware, not
* firmware"). The outputs table lists 59/81 in the SAME row set as
* the six gates supervisor.cir already protects -- but supervisor
* .cir's own header enumerates only "pin 88 (metering), 73/07/29
* (injector low side), 03/05 (injector bank high side)". EGR was
* not in that list because this block did not exist yet. This
* file closes that gap for its own two lines, reusing supervisor
* .cir's validated kill-path model rather than re-deriving it:
* same Ron=5 (kill FET), same Ciss=2n and Vgsth=1.0 (INFERRED
* class figures, see supervisor.cir's header for the sourcing).
*
* Rpd = 470 ohm, NOT 10 kOhm. supervisor.cir's claim 3 found 10k
* wrong (Miller coupling at the 100 V boost-rail edge) and claim 6
* corrected it to 470 ohm. That correction was against the
* injector/metering gates' own 100 V, 2.8 V/us edge -- EGR runs off
* 13.5 V, roughly an order of magnitude smaller swing, so the same
* Miller argument does not obviously reproduce here, and whether
* EGR's eventual driver even exposes a raw FET gate to this kind of
* coupling depends on the undecided integrated-vs-discrete question
* above. Rather than invent a new dV/dt figure with no more basis
* than the one memo 11 got wrong, this file builds to the SAME
* 470 ohm standard as every other protected gate on this board --
* the conservative, uniform choice, not a fresh derivation for this
* voltage domain. Only one control line is drawn and simulated;
* the mechanism is identical at the other (same component values,
* independent kill FET and pulldown per line, no cross-coupling).
*
* SHOOT-THROUGH. A leg's own high-side and low-side switch are
* never commanded by the same input line in this scheme (IN1 drives
* S1-and-S4, a DIAGONAL pair -- never S1-and-S2, which are the same
* leg). So no combination of IN1/IN2 the ECU can present -- 00, 01,
* 10, or 11 -- connects one leg's high side and low side switches
* at once; the worst a stuck-high IN1=IN2 pair can do in THIS
* scheme is command S2+S4 together (a low-side-only short across
* the motor, i.e. "brake", not a rail-to-ground short through a
* leg). Real shoot-through -- one leg's own top and bottom FET
* conducting together -- is prevented by the eventual driver's own
* internal dead-time/interlock logic, a datasheet property of a
* part not yet chosen, same class of gap as every other unselected
* FET on this board. What THIS design controls is which of the
* four logic states IN1/IN2 sit in while the MCU is Hi-Z at reset,
* and the kill-clamp forces that to 00 (coast) -- consistent with
* spec sec.4's "independent of GPIO configuration" requirement --
* rather than leaving it undefined.
*
* RECIRCULATION. Voltage-controlled switches have no body diode
* (sim/lib/ngrun.py's own documented trap) -- so each of the four
* switch positions gets an explicit anti-parallel diode standing in
* for the eventual FET's body diode (generic small-signal power
* MOSFET class, INFERRED, same DFLY-style model relay_driver.cir
* uses, scaled to a 13.5 V-class breakdown instead of that file's
* 600 V). Section 3 below runs the SAME forward-then-coast command
* with and without those four diodes, mirroring relay_driver.cir's
* own with/without comparison, to show directly whether reversal
* -- here, commanding a diagonal off with motor current already
* flowing -- has somewhere for that current to go.
*
* POSITION FEEDBACK, PIN 37. This is NOT a new front-end. Pin 37
* is one of Group A's ratiometric sensors (0.5-4.5 V), already
* built and checked by sensor_ratiometric.cir alongside pins 41
* (boost P), 35 (rail P) and 80 (oil P) -- see that file and
* check_sensor_ratiometric() in run_sim.py, which verifies the
* full-scale mapping (0.308-2.769 V into the 3.3 V ADC) and the
* ratiometric rail correction. Building a second front-end here
* would duplicate a proven circuit rather than reuse it -- exactly
* what the task instructions ask NOT to do. This file's own checks
* therefore cover only the DRIVE side (59/81); the feedback side is
* cited, not re-simulated.
*
* MOTOR MODEL. Rm=3 ohm, Lm=5 mH: INFERRED, a class-typical small
* automotive actuator DC gearmotor (armature + wiring resistance,
* electrical time constant ~1.6 ms with the switch resistance
* included) -- no actuator part chosen (same gap class as the
* injector/metering FETs). Vemf models back-EMF: 0 V is a STALLED
* actuator (jammed, or simply sitting at its own end-of-travel --
* which a positional actuator reaches in ordinary operation, not
* only as a fault), 9 V (INFERRED, ~2/3 of Vbat) stands in for
* running near full sweep speed.
* ============================================================

.model SWH  SW(Ron=0.05 Roff=1e9 Vt=2.5 Vh=0.2)
.model DBODY D(Is=1e-14 N=1 Rs=0.05 BV=60 IBV=1e-6)
.model SWK  SW(Ron=5 Roff=1e9 Vt=-3.05 Vh=0)

.param Ciss=2n
.param Vgsth=1.0

* ============================================================
* SECTION 1 -- gate kill-clamp on the shared control-line node.
* Directly mirrors supervisor.cir's claim 1 / claim 1b: RESET
* asserted from t=0 (Vmon_egr=0), gate node starts at an assumed
* "on" drive voltage (ic=10, INFERRED, no driver chosen), and the
* kill FET (Ron=5) in parallel with the corrected Rpd=470 ohm
* pulldown must pull it below Vgsth=1.0 V fast. g_egr_adv repeats
* it against an adversarial driver (100 ohm to 10 V, fixed,
* INFERRED) fighting the whole time -- the GPIO-independence case.
* ============================================================

Vmon_egr mon_egr 0 DC 0

Cg_egr    g_egr    0  {Ciss} ic=10
Rpd_egr   g_egr    0  470
Skill_egr g_egr    0  0  mon_egr SWK

Cg_egr_adv    g_egr_adv 0  {Ciss} ic=10
Rpd_egr_adv   g_egr_adv 0  470
Skill_egr_adv g_egr_adv 0  0  mon_egr SWK
Rdrv_adv_egr  g_egr_adv vadv_egr 100
Vadv_egr      vadv_egr  0  DC 10

.control
tran 10n 45u uic
wrdata egr_kill.dat v(g_egr) v(g_egr_adv)
.endc

* ============================================================
* SECTION 2 -- three independent H-bridge + motor networks, solved
* together in one DC operating point: stall (Vemf=0), running
* (Vemf=9), and coast (both inputs low, the reset-safe / commanded-
* idle state). Each carries its own four switches and four body
* diodes -- the actual design, not a comparison branch.
* ============================================================

* ---- stall (worst case: jammed, or simply at an end-of-travel) ----
Vbats  bats 0 DC 13.5
Vin1s  in1s 0 DC 5
Vin2s  in2s 0 DC 0
S1s bats mas in1s 0 SWH
S4s mbs  0   in1s 0 SWH
S3s bats mbs in2s 0 SWH
S2s mas  0   in2s 0 SWH
D1s mas  bats DBODY
D2s 0    mas  DBODY
D3s mbs  bats DBODY
D4s 0    mbs  DBODY
Rms mas mms 3
Lms mms mvs 5m
Vembs mvs mbs DC 0

* ---- running (assumed near-full sweep speed) ----
Vbatr  batr 0 DC 13.5
Vin1r  in1r 0 DC 5
Vin2r  in2r 0 DC 0
S1r batr mar in1r 0 SWH
S4r mbr  0   in1r 0 SWH
S3r batr mbr in2r 0 SWH
S2r mar  0   in2r 0 SWH
D1r mar  batr DBODY
D2r 0    mar  DBODY
D3r mbr  batr DBODY
D4r 0    mbr  DBODY
Rmr mar mmr 3
Lmr mmr mvr 5m
Vembr mvr mbr DC 9

* ---- coast (IN1=IN2=0 -- the reset-safe / idle-commanded state) ----
Vbatc  batc 0 DC 13.5
Vin1c  in1c 0 DC 0
Vin2c  in2c 0 DC 0
S1c batc mac in1c 0 SWH
S4c mbc  0   in1c 0 SWH
S3c batc mbc in2c 0 SWH
S2c mac  0   in2c 0 SWH
D1c mac  batc DBODY
D2c 0    mac  DBODY
D3c mbc  batc DBODY
D4c 0    mbc  DBODY
Rmc mac mmc 3
Lmc mmc mvc 5m
Vembc mvc mbc DC 0

.control
op
wrdata egr_dc.dat i(Vbats) i(Vbatr) i(Vbatc)
.endc

* ============================================================
* SECTION 3 -- forward-drive-then-coast transient, with the body
* diodes (network 5, the actual design) and without them (network
* 6, comparison only -- same convention relay_driver.cir uses for
* its own with/without branches). IN1 asserted 0.1-20 ms (build to
* steady state, tau = Lm/(2*Ron+Rm) = 5m/3.1 = 1.61 ms, so 20 ms is
* >12 tau), then dropped to command coast. Network 6 needs the same
* 10 Meg leak resistors relay_driver.cir uses -- without SOME DC
* path, ngspice cannot find an operating point at all (sim/lib/
* ngrun.py's documented trap), and the point of this branch is to
* show what an unbounded voltage swing looks like, not to fail to
* simulate one.
* ============================================================

Vbat5   bat5 0 DC 13.5
Vin1_5  in1_5 0 PWL(0 0  0.099m 0  0.1m 5  20m 5  20.0001m 0  40m 0)
Vin2_5  in2_5 0 DC 0
S1_5 bat5 ma5 in1_5 0 SWH
S4_5 mb5  0   in1_5 0 SWH
S3_5 bat5 mb5 in2_5 0 SWH
S2_5 ma5  0   in2_5 0 SWH
D1_5 ma5  bat5 DBODY
D2_5 0    ma5  DBODY
D3_5 mb5  bat5 DBODY
D4_5 0    mb5  DBODY
Rm5 ma5 mm5 3
Lm5 mm5 mv5 5m
Vemb5 mv5 mb5 DC 0

Vbat6   bat6 0 DC 13.5
Vin1_6  in1_6 0 PWL(0 0  0.099m 0  0.1m 5  20m 5  20.0001m 0  40m 0)
Vin2_6  in2_6 0 DC 0
S1_6 bat6 ma6 in1_6 0 SWH
S4_6 mb6  0   in1_6 0 SWH
S3_6 bat6 mb6 in2_6 0 SWH
S2_6 ma6  0   in2_6 0 SWH
Rm6 ma6 mm6 3
Lm6 mm6 mv6 5m
Vemb6 mv6 mb6 DC 0
Rleak6a ma6 0    10meg
Rleak6b mb6 bat6 10meg

.control
tran 5u 40m uic
wrdata egr_recirc.dat v(ma5) v(mb5) v(ma6) v(mb6) i(Vbat5)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE
* ------------------------------------------------------------
* KILL-CLAMP (section 1) -- PASS, and not close. Both g_egr and
* g_egr_adv fall from 10 V to under Vgsth=1.0 V in tens of ns: Ron=5
* dominates the 470 ohm pulldown (470||5 = 4.95 ohm), giving
* tau = 4.95*2n = 9.9 ns and t(Vgsth) = tau*ln(10) = 22.8 ns by hand
* -- see the check output for the simulated figure. g_egr_adv,
* fought by a fixed 100 ohm/10 V driver the whole run, settles at
* its own divider value (10*4.95/(4.95+100) = 0.471 V by hand),
* comfortably under Vgsth even with the driver actively working
* against it -- reproducing supervisor.cir's own g1b finding
* (~0.48 V there, at Rpd=10k, Ron=5 -- close because Ron still
* dominates in both cases) as an independent cross-check that this
* reused model is wired the same way.
*
* DC OPERATING POINTS (section 2). Stall current, forward drive,
* Vemf=0: I = Vbat/(2*Ron+Rm) = 13.5/3.1 = 4.355 A by hand. Running
* current, Vemf=9 (assumed near-full sweep speed): I =
* (13.5-9)/3.1 = 1.452 A. Coast current: near-zero, bounded only by
* Roff=1e9 leakage -- nanoamps, not a design quantity. See the
* check output for the simulated figures against these hand values.
*
* WHAT THE STALL NUMBER MEANS. 4.355 A is not a fault condition --
* a positional actuator reaches its own end-of-travel in ordinary
* operation and stalls there by design. A representative small-
* actuator automotive H-bridge (class-typical, 2-3 A continuous,
* INFERRED, no part chosen) would be run at or past its continuous
* rating simply by holding position at either end of travel. THE
* DESIGN CONCLUSION THIS FORCES: whichever driver is eventually
* chosen MUST implement active current limiting or regulation
* (current-controlled PWM, not open-loop duty), not a fixed series
* resistor -- this is not a corner case to design around, it is the
* actuator's normal end-of-travel behaviour.
*
* RECIRCULATION (section 3) -- the with-diode network stays bounded
* near the rail; the without-diode network does not. See the check
* output for both. The conclusion is the same one relay_driver.cir
* draws for its own coil: the magnitude of the "without" figure is
* a model artifact (an ideal switch opening on an inductor with no
* current path implies an unbounded voltage), but the argument it
* makes is not artifact -- the motor's stored energy has to go
* somewhere when a diagonal turns off, and without the body diodes
* it has nowhere to go except through the switch. Forward-drive
* current at t=20ms (steady state, before coast is commanded) is
* cross-checked against section 2's own stall figure (same Vbat,
* same Rm, same drive) as an internal consistency check -- both
* come from the same physics and should agree.
* ------------------------------------------------------------
*
* WHAT THIS MODEL DOES NOT COVER
* ------------------------------------------------------------
* - No H-bridge driver IC or FET is chosen. Ron=0.05, the DBODY
*   diode figures, Rm=3 ohm and Lm=5 mH are all INFERRED class
*   figures, same gap as every other unselected FET on this board.
* - Whether the eventual EGR driver is integrated (shoot-through
*   handled inside the package) or discrete FETs behind a gate
*   driver (shoot-through a real per-leg dead-time question) is
*   UNDECIDED -- memo 12 settled this for the injector and metering
*   stages but did not address EGR. This file's Rpd=470 ohm choice
*   is a uniform-standard decision, not a fresh Miller-coupling
*   derivation for the 13.5 V domain EGR actually operates in.
* - No mechanical model of the actuator: no return spring constant,
*   no gear ratio, no end-stop switches, no armature inertia. "Coast
*   lets the spring close the valve" is stated, not simulated --
*   whether that spring exists, and what position it drives to, is
*   an actuator-datasheet question with no part chosen.
* - PWM chopping at the bridge itself is not modelled -- section 2
*   is DC steady-state (stall/run/coast), section 3 is a single
*   forward-then-coast transient, not a duty-cycled drive. Ripple
*   and dither at the motor, the same question metering_unit_pwm
*   .cir answers for the fuel solenoid, is open here.
* - No temperature corner (repo-wide gap, docs/status.md sec.3).
* - Position feedback (pin 37) is NOT modelled in this file -- see
*   the header. It is proven in sensor_ratiometric.cir.
* - Diode reverse recovery and switch transition times are not
*   modelled, the same class of omission injector_turnoff.cir and
*   load_dump.cir already flag for their own ideal switches/diodes.
* ------------------------------------------------------------
* TOLERANCE
* ------------------------------------------------------------
* The verdict that matters here -- "stall current is large enough
* that current limiting is mandatory" -- hinges on Rm, the one
* figure with the least basis (no actuator chosen at all, versus
* Ron and the diode figures which at least track a generic small-
* signal FET class). Re-run by hand at a plausible class range,
* 2-5 ohm:
*
*     Rm = 2 ohm (low end)   I_stall = 13.5/2.1 = 6.429 A
*     Rm = 3 ohm (this file) I_stall = 13.5/3.1 = 4.355 A
*     Rm = 5 ohm (high end)  I_stall = 13.5/5.1 = 2.647 A
*
* The range spans both comfortably above and close to a class-
* typical 2-3 A driver rating -- the conclusion (active current
* limiting is required, a fixed series resistor cannot be sized to
* cover this range) holds at every value tried, which is the point:
* it does not depend on guessing Rm correctly.
*
* Second-order: Vbat at alternator charging voltage (14.0-14.4 V,
* same citation relay_driver.cir's own tolerance note uses) scales
* stall current linearly and by less than Rm does: at Rm=3,
* 14.4/3.1 = 4.645 A versus 13.5/3.1 = 4.355 A, a 6.7% change --
* the smaller lever, consistent with relay_driver.cir's own finding
* that Vbat effects on this board are real but second-order next to
* an unpinned component value.
* ------------------------------------------------------------
